US07091206B2
Production of 4-(4-fluorophenyl)-2-methyl-6-(5-piperidinopentyloxy)pyrimidine
13.8 kg of 4-chloro-6-(4-fluorophenyl)-2-methylpyrimidine, 4.8 kg of 60% sodium hydride, 130 kg of cyclohexane and 10.6 kg of 5-piperidino-1-pentanol were stirred under reflux for 4 hours.

reactant | 4-chloro-6-(4-fluorophenyl)-2-methylpyrimidine | 13.8 kg | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)F)C | C11H8ClFN2
reactant | sodium hydride | 4.8 kg | [H-].[Na+]
reactant | 5-piperidino-1-pentanol | 10.6 kg | N1(CCCCC1)CCCCCO | C10H21NO
solvent | cyclohexane | 130 kg | C1CCCCC1 | C6H12
product | 4-(4-fluorophenyl)-2-methyl-6-(5-piperidinopentyloxy)pyrimidine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)OCCCCCN1CCCCC1)C | C21H28FN3O
